US04318912
Anhydrous CrO3 (2.274 g, 22.74 mmol) is added to a solution of anhydrous pyridine (3.597 g, 45.48 mmol) in anhydrous CH2Cl2 (60 ml). After stirring at room temperature for 15 mins, the reaction mixture is treated all at once with a solution of N-(t-butyldimethylsilyl)-4-(3-benzyloxycarbonyl-2-hydroxypropyl)-azetidin-2-one (1.432 g, 3.79 mmol) in anhydrous CH2Cl2 (25 ml). The resulting mixture is stirred at 25° C. for 5 mins. The CH2Cl2 layer is decanted from the dark, gummy residue which is triturated with more CH2Cl2. The combined CH2Cl2 phase is evaporated i.v. The residue is triturated with diethylether (Et2O) (100 ml) in several portions and the Et2O extracts are filtered to remove chromium salts. The ethereal filtrate is washed with 5% NaHCO3, 1 N HCl, 5% NaHCO3 and brine, dried with MgSO4, filtered, and evaporated i.v. to yield N-(t-butyldimethylsilyl)-4-(3-benzyloxycarbonyl-2-oxopropyl)-azetidin-2-one (1.042 g) as a pale yellow oil: ir (neat) 5.72 (3 poorly resolved peaks), 7.59 7.98, 8.42, and 11.93 cm-1 ; nmr (CDCl3) δ0.18 (s, 3), 0.22 (s, 3), 0.97 (s, 9), 2.53 (dd, 1), 2.63 (dd, 1), 3.13 (dd, 1), 3.28 (dd, 1), 3.47 (s, 2), 3.88 (m, 1), 5.17 (s, 2), and 7.33 (s, 5); mass spectrum m/e 360, 318, and 2.76.

reactant | pyridine | 45.48 mmol, 3.597 g | N1=CC=CC=C1 | C5H5N
reactant | N-(t-butyldimethylsilyl)-4-(3-benzyloxycarbonyl-2-hydroxypropyl)-azetidin-2-one | 3.79 mmol, 1.432 g | [Si](C)(C)(C(C)(C)C)N1C(CC1CC(CC(=O)OCC1=CC=CC=C1)O)=O | C20H31NO4Si
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | chromium trioxide | 22.74 mmol, 2.274 g | [O-2].[O-2].[O-2].[Cr+6]
product | N-(t-butyldimethylsilyl)-4-(3-benzyloxycarbonyl-2-oxopropyl)-azetidin-2-one | 1.042 g | [Si](C)(C)(C(C)(C)C)N1C(CC1CC(CC(=O)OCC1=CC=CC=C1)=O)=O | C20H29NO4Si
